US06455528B1
(1) Synthesis of Methyl 1-Phenylcyclopropanecarboxylate
To a solution of 1-phenylcyclopropanecarboxylic acid (9.8 g) in methanol (121 ml) was added conc. sulfuric acid (0.1 ml) and the mixture was refluxed under heating for 8 hr. The reaction mixture was neutralized by adding an aqueous potassium carbonate solution and concentrated under reduced pressure. The concentrate was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound (8.5 g) as a colorless oil.

reactant | 1-phenylcyclopropanecarboxylic acid | 9.8 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 121 ml | CO | CH4O
product | Methyl 1-Phenylcyclopropanecarboxylate | 8.5 g | C1(=CC=CC=C1)C1(CC1)C(=O)OC | C11H12O2
